US06165941
5-(3-Chloro-5-trifluoromethylpyridin-2-yl)-1-(1-methylethyl)-benzimidazol-2-one
37.4 g of 2-[3-amino-4-(1-methylethylamino)-phenyl]-3-chloro-5-trifluoromethylpyridine and 27.6 g of carbonyldiimidazole were heated at reflux temperature for four hours in 200 ml of anhydrous tetrahydrofuran, after which the reaction mixture was concentrated. The residue was treated with 100 ml of 10% strength hydrochloric acid and the mixture was extracted three times with 100 ml of methylene chloride each time. The combined organic phases were washed twice with 50 ml of water each time, dried over sodium sulfate and concentrated. The crude product was stirred with ether, then separated off and dried. Yield: 29.8 g (74%) of colorless crystals; m.p.: 192-193° C.

reactant | 2-[3-amino-4-(1-methylethylamino)-phenyl]-3-chloro-5-trifluoromethylpyridine | 37.4 g | NC=1C=C(C=CC1NC(C)C)C1=NC=C(C=C1Cl)C(F)(F)F | C15H15ClF3N3
reactant | carbonyldiimidazole | 27.6 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 5-(3-Chloro-5-trifluoromethylpyridin-2-yl)-1-(1-methylethyl)-benzimidazol-2-one | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC2=C(N(C(N2)=O)C(C)C)C=C1 | C16H13ClF3N3O
